US05036079
5-(4-Acetylbenzyl)thiazolidine-2,4-dione
A solution of 3-(4-acetylphenyl)-2-bromopropanoic acid (87 g, 0.32 mol, prepared according to Cleland, Org. Synth. vol. 51, p. 1, 1971), and thiourea (48.7 g,) 0.64 mol) in sulfolane (100 mL) was heated to 105°-110° C. for 5 hours. To this mixture was added a 2N HCl solution (162 mL) and the resulting solution was heated to 105°-110° C. overnight. After cooling and diluting with water, present title product was collected, washed with water and dried (75 g, 94%); mp 171°-172° C.

reactant | 3-(4-acetylphenyl)-2-bromopropanoic acid | 0.32 mol, 87 g | C(C)(=O)C1=CC=C(C=C1)CC(C(=O)O)Br | C11H11BrO3
reactant | thiourea | 0.64 mol, 48.7 g | NC(=S)N | CH4N2S
reactant | HCl | 2N, 162 mL | Cl | ClH
reactant | sulfolane | 100 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | O | H2O
product | 5-(4-Acetylbenzyl)thiazolidine-2,4-dione | C(C)(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO3S
